US05981557
2-[N-(3,4-Dimethoxybenzoyl)amino]-4-(ethoxycarbonyl)-1,3-thiazole
In 100 ml of methylene chloride, 21.3 g of 2-amino-4-ethoxycarbonyl-1,3-thiazole was suspended, followed by the addition of 24.8 g of 3,4-dimethoxybenzoyl chloride, 25.3 g of triethylamine and 0.15 g of 4-dimethylaminopyridine. The resulting mixture was refluxed for 2 hours. After the reaction mixture was allowed to cool down, methylene chloride was distilled off under reduced pressure. To the residue, 1000 ml of water was added. Crystals so precipitated were collected by filtration and then recrystallized from ethanol, whereby 30.3 g of the title compound was obtained. Yield: 73%.

reactant | 2-amino-4-ethoxycarbonyl-1,3-thiazole | 21.3 g | NC=1SC=C(N1)C(=O)OCC | C6H8N2O2S
reactant | 3,4-dimethoxybenzoyl chloride | 24.8 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
reactant | triethylamine | 25.3 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.15 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-[N-(3,4-Dimethoxybenzoyl)amino]-4-(ethoxycarbonyl)-1,3-thiazole | 30.3 g, Yield: 73% | COC=1C=C(C(=O)NC=2SC=C(N2)C(=O)OCC)C=CC1OC | C15H16N2O5S
